US07790741B2
Preparation #5: (1R,2R)-2-(6-(6-(4-Fluorophenyl)imidazo[2,1-b]oxazol-5-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)cyclopropanecarboxylic acid
A solution of (1R,2R)-ethyl 2-(6-(6-(4-fluorophenyl)imidazo[2,1-b]oxazol-5-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)cyclopropanecarboxylate (0.15 g, 0.35 mmol; Example #K.1.1.17) in 1,4-dioxane (10 mL) was treated with 1N NaOH solution (6 mL, 6 mmol). The reaction mixture was stirred at about 60° C. for about 3 h. The organic solvent was removed under reduced pressure. The aqueous layer was acidified to about pH 6 using 1N HCl. The precipitate was filtered, dried in a heated vacuum oven at about 60° C., to give the title compound (0.140 g, 99%) LC/MS (Table 1, Method a) Rt, =1.72 min; MS m/z: 404.1 (M+H)+.

reactant | (1R,2R)-ethyl 2-(6-(6-(4-fluorophenyl)imidazo[2,1-b]oxazol-5-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)cyclopropanecarboxylate | 0.35 mmol, 0.15 g | FC1=CC=C(C=C1)C=1N=C2OC=CN2C1C=1C=CC=2N(C1)C(=NN2)[C@H]2[C@@H](C2)C(=O)OCC | C23H18FN5O3
reactant | NaOH | 6 mmol, 1N, 6 mL | [OH-].[Na+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (1R,2R)-2-(6-(6-(4-Fluorophenyl)imidazo[2,1-b]oxazol-5-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)cyclopropanecarboxylic acid | 0.140 g, 99% | FC1=CC=C(C=C1)C=1N=C2OC=CN2C1C=1C=CC=2N(C1)C(=NN2)[C@H]2[C@@H](C2)C(=O)O | C21H14FN5O3
